### PR TITLE
[Merged by Bors] - feat: if X is Gaussian, then `X+y` and `c*X` are Gaussian

### PR DESCRIPTION
**Pull request by RemyDegenne**
Co-authored-by: Alexander Bentkamp

---

- [x] depends on: #7671

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Distributions/Gaussian.lean [hunk 1]
```diff
@@ -192,6 +223,108 @@ lemma rnDeriv_gaussianReal (μ : ℝ) (v : ℝ≥0) :
...
+  suffices |c⁻¹| * |c| = 1 by rw [← mul_assoc, this, one_mul]
+  rw [abs_inv, inv_mul_cancel]
+  rwa [ne_eq, abs_eq_zero]
+
+variable {Ω : Type} [MeasureSpace Ω]
+
+/-- If `X` is a real random variable with Gaussian law with mean `μ` and variance `v`, then `X + y`
+has Gaussian law with mean `μ + y` and variance `v`. -/
+lemma gaussianReal_add_const {X : Ω → ℝ} (hX : Measure.map X ℙ = gaussianReal μ v)
+    (hXm : Measurable X) (y : ℝ) :
```
Comment (sgouezel) [inline Mathlib/Probability/Distributions/Gaussian.lean:312]: You shouldn't need `hXm` here: if the image of `P` is a gaussian (and in particular nonzero), this means that `X` is aemeasurable to start with, and that should be enough to go on. Same thing in the next lemma.

File: Mathlib/Probability/Distributions/Gaussian.lean [hunk 2]
```diff
@@ -114,6 +121,30 @@ lemma integral_gaussianPdfReal_eq_one (μ : ℝ) {v : ℝ≥0} (hv : v ≠ 0) :
     (ae_of_all _ (gaussianPdfReal_nonneg _ _)), ← ENNReal.ofReal_one] at h
   rwa [← ENNReal.ofReal_eq_ofReal_iff (integral_nonneg (gaussianPdfReal_nonneg _ _)) zero_le_one]
 
+lemma gaussianPdfReal_sub {μ : ℝ} {v : ℝ≥0} (x y : ℝ) :
+    gaussianPdfReal μ v (x - y) = gaussianPdfReal (μ + y) v x := by
+  simp only [gaussianPdfReal]
+  rw [@sub_add_eq_sub_sub_swap]
+
+lemma gaussianPdfReal_inv_mul {μ : ℝ} {v : ℝ≥0} {c : ℝ} (hc : c ≠ 0) (x : ℝ) :
+    gaussianPdfReal μ v (c⁻¹ * x) = |c| * gaussianPdfReal (c * μ) (⟨c^2, sq_nonneg _⟩ * v) x := by
```
Comment (eric-wieser) [inline Mathlib/Probability/Distributions/Gaussian.lean:130]: It might be worth adding another one along the lines of
```lean
lemma gaussianPdfReal_mul {μ : ℝ} {v : ℝ≥0} {c : ℝ} (hc : c ≠ 0) (x : ℝ) :
    gaussianPdfReal μ v (c * x) = |c| * gaussianPdfReal (c⁻¹ * μ) (⟨c^2, sq_nonneg _⟩⁻¹ * v) x := by
```

File: Mathlib/Probability/Distributions/Gaussian.lean [hunk 3]
```diff
@@ -192,6 +223,115 @@ lemma rnDeriv_gaussianReal (μ : ℝ) (v : ℝ≥0) :
...
+    (h_deriv : ∀ x, HasDerivAt f (f' x) x) {s : Set ℝ} (hs : MeasurableSet s) :
+    (gaussianReal μ v).map f.symm s
+      = ENNReal.ofReal (∫ x in s, |f' x| * gaussianPdfReal μ v (f x)) := by
+  rw [gaussianReal_of_var_ne_zero _ hv, gaussianPdf_def]
+  exact f.withDensity_ofReal_map_symm_apply_eq_integral_abs_deriv_mul' hs h_deriv
+    (ae_of_all _ (gaussianPdfReal_nonneg _ _)) (integrable_gaussianPdfReal _ _)
+
+/-- The map of a Gaussian distribution by addition of a constant is a Gaussian. -/
+lemma gaussianReal_map_add_const (y : ℝ) :
+    (gaussianReal μ v).map (· + y) = gaussianReal (μ + y) v := by
```
Comment (eric-wieser) [inline Mathlib/Probability/Distributions/Gaussian.lean:249]: I think it would be good to add the stupid symmetric versions of this lemma and the one below (`const_add` and `mul_const`)

File: Mathlib/Probability/Distributions/Gaussian.lean [hunk 4]
```diff
@@ -308,19 +308,26 @@ variable {Ω : Type} [MeasureSpace Ω]
...
+  rw [← AEMeasurable.map_map_of_aemeasurable (measurable_id'.add_const _).aemeasurable hXm, hX,
+    gaussianReal_map_add_const y]
 
 /-- If `X` is a real random variable with Gaussian law with mean `μ` and variance `v`, then `c * X`
 has Gaussian law with mean `c * μ` and variance `c^2 * v`. -/
-lemma gaussianReal_const_mul {X : Ω → ℝ} (hX : Measure.map X ℙ = gaussianReal μ v)
-    (hXm : Measurable X) (c : ℝ) :
+lemma gaussianReal_const_mul {X : Ω → ℝ} (hX : Measure.map X ℙ = gaussianReal μ v) (c : ℝ) :
     Measure.map (fun ω ↦ c * X ω) ℙ = gaussianReal (c * μ) (⟨c^2, sq_nonneg _⟩ * v) := by
+  have hXm : AEMeasurable X := by
```
Comment (sgouezel) [inline Mathlib/Probability/Distributions/Gaussian.lean:354]: maybe register a lemma `[NeZero μ] (h : Measure.map f nu = μ) : AEMeasurable f nu`?

Comment (RemyDegenne) [reply Mathlib/Probability/Distributions/Gaussian.lean]: I added these:
```lean
@[simp] lemma neZero_zero_iff_false {α : Type*} [Zero α] : NeZero (0 : α) ↔ False :=

lemma aemeasurable_of_map_neZero {mβ : MeasurableSpace β} {μ : Measure α}
    {f : α → β} (h : NeZero (μ.map f)) :
    AEMeasurable f μ := by
```
and added `@[simp]` on `map_of_not_aemeasurable`

File: Mathlib/Probability/Distributions/Gaussian.lean [hunk 5]
```diff
@@ -192,6 +233,135 @@ lemma rnDeriv_gaussianReal (μ : ℝ) (v : ℝ≥0) :
...
+  by_cases hv : v = 0
+  · simp only [hv, ne_eq, not_true, gaussianReal_zero_var]
+    exact Measure.map_dirac (measurable_id'.add_const _) _
+  let e : ℝ ≃ᵐ ℝ :=
+  { toFun := fun x ↦ x - y
+    invFun := fun x ↦ x + y
+    left_inv := fun x ↦ by simp
+    right_inv := fun x ↦ by simp
+    measurable_toFun := measurable_id'.add_const _
+    measurable_invFun := measurable_id'.add_const _}
```
Comment (sgouezel) [inline Mathlib/Probability/Distributions/Gaussian.lean:269]: Can you just use
```suggestion
  let e : ℝ ≃ᵐ ℝ := (Homeomorph.addRight y).symm.toMeasurableEquiv
```
? (requires fixing the last line of the proof, with ` simp [gaussianPdfReal_sub _ y, Homeomorph.addRight, ← sub_eq_add_neg]`)

File: Mathlib/Probability/Distributions/Gaussian.lean [hunk 6]
```diff
@@ -192,6 +233,135 @@ lemma rnDeriv_gaussianReal (μ : ℝ) (v : ℝ≥0) :
...
+  have he' : ∀ x, HasDerivAt e ((fun _ ↦ 1) x) x := fun _ ↦ (hasDerivAt_id _).sub_const y
+  suffices (gaussianReal μ v).map e.symm = gaussianReal (μ + y) v by exact this
```
Comment (sgouezel) [inline Mathlib/Probability/Distributions/Gaussian.lean:271]:
```suggestion
  change (gaussianReal μ v).map e.symm = gaussianReal (μ + y) v
```
If the goal is the same, use `change` instead of `suffices ... by exact this`.

File: Mathlib/Probability/Distributions/Gaussian.lean [hunk 7]
```diff
@@ -192,6 +233,135 @@ lemma rnDeriv_gaussianReal (μ : ℝ) (v : ℝ≥0) :
...
+    convert (gaussianReal_zero_var 0).symm
+    simp only [ne_eq, zero_pow', mul_eq_zero, hv, or_false]
+    rfl
+  let e : ℝ ≃ᵐ ℝ :=
+  { toFun := fun x ↦ c⁻¹ * x
+    invFun := fun x ↦ c * x
+    left_inv := fun x ↦ by simp [hc]
+    right_inv := fun x ↦ by simp [hc]
+    measurable_toFun := measurable_id'.const_mul _
+    measurable_invFun := measurable_id'.const_mul _}
```
Comment (sgouezel) [inline Mathlib/Probability/Distributions/Gaussian.lean:303]:
```suggestion
  let e : ℝ ≃ᵐ ℝ := (Homeomorph.mulLeft₀ c hc).symm.toMeasurableEquiv
```

File: Mathlib/Probability/Distributions/Gaussian.lean [hunk 8]
```diff
@@ -192,6 +233,135 @@ lemma rnDeriv_gaussianReal (μ : ℝ) (v : ℝ≥0) :
...
+  have he' : ∀ x, HasDerivAt e ((fun _ ↦ c⁻¹) x) x := by
+    suffices ∀ x, HasDerivAt (fun x => c⁻¹ * x) (c⁻¹ * 1) x by rwa [mul_one] at this
+    exact fun _ ↦ HasDerivAt.const_mul _ (hasDerivAt_id _)
+  suffices (gaussianReal μ v).map e.symm = gaussianReal (c * μ) (⟨c^2, sq_nonneg _⟩ * v) by
+    exact this
```
Comment (sgouezel) [inline Mathlib/Probability/Distributions/Gaussian.lean:308]: ditto

**Review by sgouezel — COMMENTED** [review]
Looks great, thanks!

File: Mathlib/Probability/Distributions/Gaussian.lean (hunk 5 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Distributions/Gaussian.lean:269]: That's much better. Thanks!

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

**Review by sgouezel — COMMENTED** [review]
This look good to me, thanks!
I wonder if we should introduce some notation or some definition for `Measure.map X ℙ` in the probabilistic setting, to make the last statements more readable, but there is already enough in this PR.
bors r+
